US04511504
Tertiarybutyloxycarbonyl-L-valine (25 g) in dichloromethane (200 ml) was treated with 1-hydroxybenzotriazole (15.5 g) hexylamine (11.6 g) and DCC (26 g) at room temperature for 2 days. The solution was filtered and the organic phase washed with aqueous sodium hydrogen carbonate, aqueous citric acid (1M) and water, dried over sodium sulphate and concentrated in vacuo to afford tertiary butyloxy-carbonyl-L-valine N-hexylamide (28 g) which crystallised from methanol-water as needles; m.p. 74°-76° C.; (Found: C,63.8; H,10.6; N,9.4. C16H32N2O3 requires C,64.0; H,10.7; N,9.32%); νmax (Nujol): 3280 and 1630 cm-1 ; δ(CDCl3) 0.8-1 (9H,m, 3xCH3); 1.3 (8H,m,(CH2)4); 1.45 (9H,s, (CH3)3C); 2.1 (1H, m,CH(CH3)2); 3.3 (2H,m, NHCH 2); 3.9 (1H,dd, J=8 Hz and 5 Hz., α--CH); 5.2 (1H,d, J=8 Hz, CONH) and 6.26 (1H,m,NH).

reactant | Tertiarybutyloxycarbonyl-L-valine | 25 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | 1-hydroxybenzotriazole | 15.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DCC | 26 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | tertiary butyloxy-carbonyl-L-valine N-hexylamide | 28 g | C(CCCCC)NC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O | C16H32N2O3
